US20010036941A1
An alternative process for preparing the intermediate 2,4-dichloro-3-cyano-5-fluoro-benzoyl chloride (European Patent Application 276 700), which can be converted into 3-cyano-2,4,5-trifluoro-benzoyl fluoride, starts with 5-fluoro-1,3-xylene: 5-fluoro-1,3-xylene is dichlorinated at the ring in the presence of a catalyst under ionic conditions to give 2,4-dichloro-5-fluoro-1,3-dimethylbenzene which is subsequently chlorinated in the side chains under radical conditions to give 2,4-dichloro-5-fluoro-3 -dichloromethyl-1-trichloromethylbenzene. This is hydrolysed via the 2,4-dichloro-5 -fluoro-3-dichloromethylbenzoic acid to give 2,4-dichloro-5-fluoro-3-formyl-benzoic acid, which is subsequently converted into 2,4-dichloro-5-fluoro-3-N-hydroxyiminomethyl-benzoic acid. Treatment with thionyl chloride gives 2,4-dichloro-3-cyano-5-fluoro-benzoyl chloride which can then be converted into 3-cyano-2,4,5-trifluoro-benzoyl fluoride by chlorine-fluorine exchange.

reactant | 2,4-dichloro-3-cyano-5-fluoro-benzoyl chloride | ClC1=C(C(=O)Cl)C=C(C(=C1C#N)Cl)F | C8HCl3FNO
reactant | 3-cyano-2,4,5-trifluoro-benzoyl fluoride | C(#N)C=1C(=C(C(=O)F)C=C(C1F)F)F | C8HF4NO
reactant | 5-fluoro-1,3-xylene | FC=1C=C(C=C(C1)C)C | C8H9F
product | 2,4-dichloro-5-fluoro-1,3-dimethylbenzene | ClC1=C(C=C(C(=C1C)Cl)F)C | C8H7Cl2F
